US04197411
(a) 2-Acetoxymethyl-3-methyl-3-formyl-bicyclo[2.2.1]hept-5-ene
5 ml of boron fluoride etherate were added to 400 ml of methylene chloride and the mixture was cooled to -15° C. A solution of 132 g (2 moles) of freshly distilled cyclopentadiene and 256 g (1.8 moles) of 3-formylcrotyl acetate was added dropwise, whilst stirring, at a rate such that the reaction temperature did not rise above -10° C. The reaction was then allowed to continue for 2 hours at -10° C., whilst stirring. For working up, about 0.5 kg of ice was added, the mixture was neutralized with sodium bicarbonate solution, the aqueous phase was separated off and the methylene chloride was removed under reduced pressure (12 mm Hg/50° C.). The reaction product which remained was subjected to fractional distillation, giving 337 g of main fraction (yield: 90%).

reactant | boron fluoride etherate | 5 ml | B(F)(F)F.CCOCC
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | 3-formylcrotyl acetate | 1.8 moles, 256 g | C(C)(=O)OCC=C(C)C=O | C7H10O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 2-Acetoxymethyl-3-methyl-3-formyl-bicyclo[2.2.1]hept-5-ene | yield: 90% | C(C)(=O)OCC1C2C=CC(C1(C=O)C)C2 | C12H16O3
